* C:\Users\KALP\OneDrive\Desktop\compiter\compiter\damped_freefall.asc
V§g1 N011 0 9.8
R1 N004 0 10k
R2 N005 N004 10k
R3 N008 N006 20k
R4 N005 N008 20k
C1 N008 N012 100µ ic=10.1
R5 N002 0 10k
R6 N003 N002 10k
R7 N007 N005 20k
R8 N003 N007 20k
C2 N007 N012 100µ ic=17
R11 N006 N009 5k
R12 N009 N010 5k
V1 N001 0 15
V2 0 N012 15
XU1 N011 N010 N001 N012 N010 TL084
XU2 0 N009 N001 N012 N006 TL084
XU3 N008 N004 N001 N012 N005 TL084
XU4 N007 N002 N001 N012 N003 TL084
XU6 N005 N013 N001 N012 N013 TL084
R14 N009 N013 5k
.tran 0 10 0 0.1
.lib C:\Users\KALP\AppData\Local\LTspice\lib\sym\Auto\TL084.301
.backanno
.end
