* C:\Users\KALP\OneDrive\Desktop\compiter\compiter\freefall.asc
V§g1 N011 0 9.8
R1 N004 0 10k
R2 N005 N004 10k
R3 N008 N006 20k
R4 N005 N008 20k
C1 N008 N012 100µ ic=10.1
R5 N002 0 10k
R6 N003 N002 10k
R7 N007 N005 20k
R8 N003 N007 20k
C2 N007 N012 100µ ic=17
R11 N006 N009 5k
R12 N009 N010 5k
V1 N001 0 15
V2 0 N012 15
XU1 N011 N010 N001 N012 N010 TL084
XU2 0 N009 N001 N012 N006 TL084
XU3 N008 N004 N001 N012 N005 TL084
XU4 N007 N002 N001 N012 N003 TL084
.tran 0 10 0 0.1
.lib C:\Users\KALP\AppData\Local\LTspice\lib\sym\Auto\TL084.301
.backanno
.end
